US04562257
2-Amino-2,3-dimethylbutyronitrile (0.393 mol) is added over 40 minutes to a stirred solution of 2,3-quinolinedicarboxylic anhydride (0.376 mol) in 4-picoline (338 g, 3.63 mol) and toluene (52 g), while maintaining the temperature at 40° to 43° C. The reaction mixture is stirred at 40° to 43° C. for one hour. Aqueous sodium hydroxide (218 g, 25%, 1.36 mol) and then toluene 378 g) are added and the mixture stirred at 55° to 60° C. for approximately 15 minutes. The lower aqueous basic phase is separated off and the product extracted from organic phase with water. The aqueous phase is washed with toluene. A portion of the aqueous phase (25.8 g) is treated with 25% aqueous sodium hydroxide (10 g) and 3.7 equivalents of hydrogen peroxide at 65°-70° C. for one hour, then additional 50% aqueous sodium hydroxide (14.5 g) is added and the reaction mixture is allowed to stir for one hour at 65° to 70° C. The mixture is cooled to 25° to 30° C., and the pH of the mixture adjusted to 1.5 with concentrated sulfuric acid. The product 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-3-quinolinecarboxylic acid (17.3 g) is isolated by filtration.

reactant | 2-Amino-2,3-dimethylbutyronitrile | 0.393 mol | NC(C#N)(C(C)C)C | C6H12N2
reactant | 2,3-quinolinedicarboxylic anhydride | 0.376 mol | N1=C2C(=CC3=CC=CC=C13)C(=O)OC2=O | C11H5NO3
reactant | 4-picoline | 3.63 mol, 338 g | N1=CC=C(C=C1)C | C6H7N
reactant | sodium hydroxide | 1.36 mol, 218 g | [OH-].[Na+]
reactant | sodium hydroxide | 10 g | [OH-].[Na+]
reactant | hydrogen peroxide | 3.7 equivalents | OO | H2O2
reactant | sodium hydroxide | 14.5 g | [OH-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 52 g | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 378 g | C1(=CC=CC=C1)C | C7H8
product | 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-3-quinolinecarboxylic acid | 17.3 g | C(C)(C)C1(N=C(NC1=O)C1=NC2=CC=CC=C2C=C1C(=O)O)C | C17H17N3O3
